US07745641B2
In a similar manner to Step 1 of Example 149, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.102 g, 0.221 mmol) was dissolved in THF (5.1 mL), and the solution was treated with triphenylphosphine (0.116 g, 0.442 mmol), 40% DEAD-toluene solution (0.201 mL, 0.442 mmol) and 2-isopropoxyethanol (0.126 mL, 1.10 mmol), followed by purification by flash column chromatography (chloroform/methanol=4/1) to obtain 4-(2-isopropoxyethoxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0677 g, yield 59%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.221 mmol, 0.102 g | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | triphenylphosphine | 0.442 mmol, 0.116 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD toluene | 0.442 mmol, 0.201 mL | CCOC(=O)/N=N/C(=O)OCC.C1(=CC=CC=C1)C
reactant | 2-isopropoxyethanol | 1.10 mmol, 0.126 mL | C(C)(C)OCCO | C5H12O2
solvent | THF | 5.1 mL | C1CCOC1 | C4H8O
product | 4-(2-isopropoxyethoxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0677 g, yield 59% | C(C)(C)OCCOC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C32H41N3O5
